US06362361B1
Ethyl 2,2-di(tertiary-butylperoxy)-1-cyclohexanecarboxylate was prepared by the addition of 92.28% TBHP (tertiary butyl hydroperoxide) (24.41 g, 0.2500 moles) to 95% ethyl 2-oxo-1-cyclohexanecarboxylate (17.92 g, 0.1000 moles) at room temperature in a three necked 250-mL round bottomed flask equipped with a thermometer and mechanical stirrer. The solution was then cooled to −10° C. via a dry ice-acetone bath and 78% sulfuric acid (15.09 g, 0.1200 moles) added dropwise to the solution with temperature at −10° C. Upon completion of the addition of sulfuric acid, the solution was allowed to reach 5° C. where it was maintained by an ice-water bath for three hours with mechanical stirring. The reaction was transferred to a separatory funnel and the lower acidic aqueous layer separated and discarded. The organic layer was then washed with saturated NaCl solution until the aqueous washings had a pH of 4.5 or greater. The organic layer was then dried over MgSO4 and filtered through a Buchner funnel to give a resulting peroxide (24.92 g, 74.92%). The resulting peroxide crystallized and was subsequently re-crystallized with hexanes, analyzed for purity by Gas Chromatography, as presented in Example 1, (95% by area) and it's 10 hr half life temperature was determined to be 93.31° C. by G.C.: m.p. 36-38°; 13C NMR (75 MHz, CDCl3) δ 171.8 (C═O), 106.1 (O—C—O, cyclic), 79.0 (C(CH3)3), 78.9 (C(CH3)3, 59.5 (CH2CH3), 44.3 (CH, Cyclic), 27.6 (CH2, cyclic), 26.3 ((CH3)3), 26.2 ((CH3)3), 2.17 (CH2, cyclic), 21.4 (CH2, cyclic), 13.8 (CH3CH2—O); IR (NaCl, CHCl3) ν 1735, 1370, 1200, 880 Cm−1; Analysis calculated for C17H32O6: C, 61.42; H, 9.70; O, 28.88; found: C, 61.05; H, 9.82: O, 28.22.

reactant | TBHP | 0.2500 moles, 24.41 g | C(C)(C)(C)OO | C4H10O2
reactant | ethyl 2-oxo-1-cyclohexanecarboxylate | 0.1000 moles, 17.92 g | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | sulfuric acid | 0.1200 moles, 15.09 g | S(O)(O)(=O)=O | H2O4S
product | Ethyl 2,2-di(tertiary-butylperoxy)-1-cyclohexanecarboxylate | C(C)(C)(C)OOC1(C(CCCC1)C(=O)OCC)OOC(C)(C)C | C17H32O6
